US04584295
Analogously to the process described in Example 113, O-methylisourea hydrochloride or hydrosulphate is reacted with methyl 4-chloroacetoacetate in order to produce 4-chloromethyl-6-hydroxy-2-methoxy-pyrimidine, m.p. 154°-155° C., which is required as the starting material in Examples 68, 69 and 77.

reactant | O-methylisourea hydrochloride | Cl.COC(N)=N
reactant | methyl 4-chloroacetoacetate | ClCC(CC(=O)OC)=O | C5H7ClO3
product | 4-chloromethyl-6-hydroxy-2-methoxy-pyrimidine | ClCC1=NC(=NC(=C1)O)OC | C6H7ClN2O2
